US05260291
An intimate mixture of 5-nitroimidazole-4-carboxylic acid (2.0 g) and phosphorus pentachloride (2.67 g) was stirred and heated in an oil bath at 120° C. for 1 hour. The resulting yellow slurry was evaporated at 60° C./0.1 nun Hg for 30 minutes, to give 1,6-dinitro-5H,10H-diimidazo[1,5-a:1',5'-d]pyrazine-5,10-dione (1.90 g) in the form of a yellow solid, m.p. 249°-251° C. (with decomposition). [νmax (KBr disc) 1750 cm-1 ; m/e 278 (M+)].

reactant | 5-nitroimidazole-4-carboxylic acid | 2.0 g | [N+](=O)([O-])C1=C(N=CN1)C(=O)O | C4H3N3O4
reactant | phosphorus pentachloride | 2.67 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 1,6-dinitro-5H,10H-diimidazo[1,5-a:1',5'-d]pyrazine-5,10-dione | 1.90 g | [N+](=O)([O-])C=1N=CN2C(C=3N(C(C21)=O)C=NC3[N+](=O)[O-])=O | C8H2N6O6
